2157-11-18 05:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2157-11-18**] 02:01 AM
   -Positive troponins, EKG with long-standing left bundle branch block,
   Ruled in for MI
   -Patient accepted CPAP
   -PTT elevated from 63 to 106 this AM.  Pt had some mildly bloody
   secretions.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2157-11-18**] 04:20 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2157-11-18**] 05:24 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-11-18**] 05:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.3
C (95.5
   HR: 104 (104 - 127) bpm
   BP: 115/48(77) {115/43(63) - 155/111(119)} mmHg
   RR: 22 (20 - 30) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                    786 mL
                                                                    623 mL
   PO:
             120 mL
   TF:
   IVF:
                                                                    786 mL
                                                                    503 mL
   Blood products:
   Total out:
                                                                    300 mL
                                                                      0 mL
   Urine:
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    486 mL
                                                                    623 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 360 (360 - 604) mL
   PS : 6 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 26%
   PIP: 11 cmH2O
   SpO2: 94%
   ABG: 7.28/55/99.[**Numeric Identifier 126**]/23/-1
   Ve: 8.5 L/min
   PaO2 / FiO2: 381
   Physical Examination
   GEN: Awake and alert, responding appropriately, using accessory
   muscles, speaking in sentences
   HEENT: NC AT, PERRLA, white patches on sides of tounge/cheek
   Neck: supple, no significant JVD
   CV: RRR, no appreciable murmur
   Lungs: markedly reduced air movement
   Abd: soft, NT, ND BS+, no rebound or guarding
   Ext: cachectic, no edema
   Labs / Radiology
   265 K/uL
   13.9 g/dL
   201 mg/dL
   0.5 mg/dL
   23 mEq/L
   3.7 mEq/L
   14 mg/dL
   104 mEq/L
   139 mEq/L
   41.7 %
   8.8 K/uL
        [image002.jpg]
                            [**2157-11-17**]  07:46 PM
                            [**2157-11-17**]  10:37 PM
                            [**2157-11-17**]  10:48 PM
                            [**2157-11-18**]  01:53 AM
                            [**2157-11-18**]  03:53 AM
   WBC
   10.9
   8.8
   Hct
   42.1
   41.7
   Plt
   290
   265
   Cr
   0.7
   0.5
   TropT
   0.24
   TCO2
   27
   26
   27
   Glucose
   246
   201
   Other labs: PT / PTT / INR:13.5/150.0/1.2, CK / CKMB /
   Troponin-T:187/15/0.24, Lactic Acid:2.2 mmol/L, Ca++:8.6 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.0 mg/dL; CK 156, MB 16, MBI 8.6, Trop 0.23, ABG:
   7.34 / 43 / 74 / 24, lactate 4.2
   Assessment and Plan
   Ms. [**Known lastname 3581**] is a 70 yo F with COPD presenting with COPD exacerbation and
   NSTEMI.
   .
   #COPD Exacerbation
 More air movement this morning compared to
   admission, but still quite restricted air flow with increased work of
   breathing.  [**Month (only) 51**] be due to viral illness given CXR, though initially
   with concern for possible superimposed bacterial infection as well.
   Other concern would be for possible pulmonary embolism given wedge
   shaped defect on CXR.
   -vanc/cefepime to cover broadly given failure with moxiflox x
   2courses.
   -solumedrol 125mg IV q6 x72 hours then taper
   -xopenex nebs prn
   -atrovent q6
   -continue home flovent/salmeterol/tiotropium
   -monitor ABG's prn
   -BIPAP if needed/not protecting pH
   -heparin gtt continue until able to further eval w/CTA
   -sputum culture
   -legionella urinary antigen
   -r/o influenza, respiratory viruses
   .
   #NSTEMI
 Likely due to demand ischemia in the setting of HTN on
   admission with BP 200's/150's.  CXR overnight shows flipped T waves in
   the anterior/septal distribution.   She is on heparin gtt already due
   to concern for possible PE.   Cardiology consulted.  They recommend
   using diltiazem to control heart rate.
   -continue heparin gtt
   -asa 325
   -atorvastatin 80 daily
   -hold BB given severe COPD exacerbation
   -trend CE's
   -serial EKG's although unlikely to show much given LBBB at baseline
   -xopenex instead of albuterol
   .
   #Wedge shaped opacity on CXR- could be soft tissue although also
   concerning for possible PE.  Patient refused CTA in ED due to dyspnea
   and inability to lie flat.
   -continue heparin gtt for now
   -CTA when able to tolerate
   .
   #FEN - Sips, advance diet when more stable, replete lytes prn,
   maintenance IVF + boluses prn.
   .
   # Access: PIV x 2.
   .
   # Dispo: ICU level of care.
   .
   # Full Code.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2157-11-17**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2157-11-19 05:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Pt improving, now on 1L NC.  Breathing is feeling better.  Pt denies
   any chest pain, pleuritic pain.  Feeling anxious about having CT scan.
   No other complaints at this time.  No fevers, chills, night sweats.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2157-11-18**] 08:00 PM
   Cefipime - [**2157-11-19**] 04:00 AM
   Infusions:
   Heparin Sodium - 600 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-11-19**] 05:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.1
C (95.2
   HR: 88 (77 - 116) bpm
   BP: 99/43(56) {94/40(54) - 153/97(108)} mmHg
   RR: 19 (16 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  3,795 mL
                                                                    181 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                  3,315 mL
                                                                    181 mL
   Blood products:
   Total out:
                                                                  1,170 mL
                                                                    450 mL
   Urine:
                                                                  1,170 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,625 mL
                                                                   -269 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 535 (535 - 535) mL
   PS : 6 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 26%
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: 7.34/42/74/26/-2
   Ve: 6.2 L/min
   PaO2 / FiO2: 285
   Physical Examination
   GEN: Awake and alert, speaking in full sentences, not using accessory
   muscles.
   HEENT: NC AT, PERRLA, white patches on sides of tounge/cheek
   Neck: supple, no significant JVD
   CV: RRR, no appreciable murmur
   Lungs: better air movement compared to yesterday.  No clear wheezes but
   limited air movement.
   Abd: soft, NT, ND BS+, no rebound or guarding
   Ext: cachectic, no edema
   Labs / Radiology
   287 K/uL
   12.9 g/dL
   164 mg/dL
   0.5 mg/dL
   26 mEq/L
   4.0 mEq/L
   13 mg/dL
   108 mEq/L
   142 mEq/L
   38.0 %
   14.0 K/uL
        [image002.jpg]
                            [**2157-11-17**]  07:46 PM
                            [**2157-11-17**]  10:37 PM
                            [**2157-11-17**]  10:48 PM
                            [**2157-11-18**]  01:53 AM
                            [**2157-11-18**]  03:53 AM
                            [**2157-11-18**]  07:48 AM
                            [**2157-11-18**]  10:26 AM
                            [**2157-11-19**]  12:13 AM
   WBC
   10.9
   8.8
   14.0
   Hct
   42.1
   41.7
   38.0
   Plt
   290
   265
   287
   Cr
   0.7
   0.5
   0.5
   TropT
   0.24
   0.23
   0.15
   0.10
   TCO2
   27
   26
   27
   24
   Glucose
   [**Telephone/Fax (3) 3617**]
   Other labs: PT / PTT / INR:12.6/78.3/1.1, CK / CKMB /
   Troponin-T:195/16/0.10, Lactic Acid:4.4 mmol/L, Ca++:7.8 mg/dL,
   Mg++:2.7 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 3581**] is a 70 yo F with COPD presenting with COPD exacerbation and
   NSTEMI.
   .
   #COPD Exacerbation
 Symptoms improving today with better air
   movement.
   -vanc/cefepime to cover broadly given failure with moxiflox x
   2courses.  Day #1 = [**2157-11-17**].
   -solumedrol 125mg IV q6 x72 hours then taper (start taper tomorrow)
   -xopenex nebs prn
   -atrovent q6
   -continue home flovent/salmeterol/tiotropium
   -monitor ABG's prn
   -heparin gtt continue until able to further eval w/CTA
   -legionella urinary antigen negative
   -influenza, respiratory viruses negative
   .
   #NSTEMI
 Likely due to demand ischemia in the setting of HTN on
   admission with BP 200's/150's.  She is on heparin gtt already due to
   concern for possible PE but not necessary in the setting of demand
   ischemia.   Cardiology consulted.  They recommend using diltiazem to
   control heart rate.
   -continue heparin gtt
   -asa 325
   -atorvastatin 80 daily
   -hold BB given severe COPD exacerbation
   -xopenex instead of albuterol
   - f/u cardiology recs
   .
   #Wedge shaped opacity on CXR- could be soft tissue although also
   concerning for possible PE.  Pt continues on heparin without other
   symptoms. Feeling anxious about CT scan and claustrophobia.
   -continue heparin gtt for now
   -CTA when able to tolerate; will attempt small doses of Ativan for
   claustrophobia in attempt not to suppress respiratory drive
   .
   #FEN
 Regular diet, replete lytes PRN
   .
   # Prophylaxis: Heparin gtt for DVT prophylaxis, no need for stress
   ulcer prophylaxis, bowel regimen PRN
   .
   # Access: PIV x 2.
   .
   # Dispo: to be called out to the floor after CTA today.
   .
   # Full Code.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2157-11-17**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2157-11-19 09:19:00 Physician Attending Progress Note
Chief Complaint: resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   70 yr old with COPD exacerbation
   24 Hour Events:
   still no CT done, she is fearful due to claustrophobia
   Has been off BIPAP x 24 hours and down to 1 liter
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2157-11-18**] 08:00 PM
   Cefipime - [**2157-11-19**] 04:00 AM
   Infusions:
   Heparin Sodium - 600 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea
   Flowsheet Data as of  [**2157-11-19**] 09:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.2
   Tcurrent: 35.1
C (95.2
   HR: 85 (85 - 116) bpm
   BP: 108/49(63) {99/39(54) - 153/97(108)} mmHg
   RR: 17 (16 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  3,795 mL
                                                                    203 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                  3,315 mL
                                                                    203 mL
   Blood products:
   Total out:
                                                                  1,170 mL
                                                                    450 mL
   Urine:
                                                                  1,170 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,625 mL
                                                                   -247 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.9 g/dL
   287 K/uL
   164 mg/dL
   0.5 mg/dL
   26 mEq/L
   4.0 mEq/L
   13 mg/dL
   108 mEq/L
   142 mEq/L
   38.0 %
   14.0 K/uL
        [image002.jpg]
                            [**2157-11-17**]  07:46 PM
                            [**2157-11-17**]  10:37 PM
                            [**2157-11-17**]  10:48 PM
                            [**2157-11-18**]  01:53 AM
                            [**2157-11-18**]  03:53 AM
                            [**2157-11-18**]  07:48 AM
                            [**2157-11-18**]  10:26 AM
                            [**2157-11-19**]  12:13 AM
   WBC
   10.9
   8.8
   14.0
   Hct
   42.1
   41.7
   38.0
   Plt
   290
   265
   287
   Cr
   0.7
   0.5
   0.5
   TropT
   0.24
   0.23
   0.15
   0.10
   TCO2
   27
   26
   27
   24
   Glucose
   [**Telephone/Fax (3) 3617**]
   Other labs: PT / PTT / INR:12.6/68.1/1.1, CK / CKMB /
   Troponin-T:195/16/0.10, Differential-Neuts:90.2 %, Lymph:6.9 %,
   Mono:2.8 %, Eos:0.1 %, Lactic Acid:2.2 mmol/L, Ca++:7.8 mg/dL, Mg++:2.7
   mg/dL, PO4:2.2 mg/dL
   Microbiology: Blood and urine neg to date
   Assessment and Plan
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 ANXIETY
 ELECTROLYTE & FLUID DISORDER, OTHER
 PULMONARY EMBOLISM (PE), ACUTE
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
   70 yo female with known history of COPD now admit with refractory
   symptoms of tachypnea and cough at home despite close outpatient
   management for COPD flare with ABX and Prednisone.  Following arrival
   patient did have mild respiratory acidosis which was responsive to
   BIPAP support.  In this setting patient has had signficant leak of
   enzymes from the myocardium as well as rising lactate all consistent
   with significant stress from the acute respiratory compromise.
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
   -Dilt PO
ASA -Heparin
   -Cardiology was to eval patient but do suspect that patient will be
   best served by ASA and follow up evaluation with stress testing
   formally
 PULMONARY EMBOLISM (PE), ACUTE
   -This is suggested on the plain CXR and empiric heparin has begun. She
   is fearful of getting a CT but she would consider if she could get a
   low dose benzo. Plan for try CTA this afternoon
 monitor closely
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
   -Serevent
   -Flovent
   -Spiriva
   -Solumedrol 125mg q 6 hours x 2days or until durable response seen from
   bronchodilators
   ICU Care
   Nutrition: po diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2157-11-17**] 06:00 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: h2 blocker
   Communication:  with pt
   [**Name (NI) 36**] status: Full code
   Disposition : call out after CTA
   Total time spent: